US04935511
A suspension of 37 g (0.15 mol) of methyl 2-methoxy-4-amino-5-chlorobenzoate hydrochloride in 500 ml methylene chloride is stirred at 25° C. To this is added 600 ml (0.60 mol) of BBr3 in CH2Cl2 gradually until the ester dissolves. After 24 hours stirring a ppt. forms on the side of the flask. This mixture is poured into rapidly stirring ice water (700 ml). Aqueous NaOH (5.5N, 600 ml) is poured in to the flask to dissolve the ppt. The water organic layer forms a ppt. and this mixture is stirred and cooled in an ice bath and treated with the NaOH solution cautiously. The ppt. dissolves and the organic layer is separated. The aqueous layer is washed with CH2Cl2 (200 ml) and then cooled to 0° and treated with concentrated HCl with stirring. A colorless ppt. forms which is filtered, washed (H2O) and air dried to obtain 4-amino-5-chlorosalicylic acid which is used directly in the next step.

reactant | methyl 2-methoxy-4-amino-5-chlorobenzoate hydrochloride | 0.15 mol, 37 g | Cl.COC1=C(C(=O)OC)C=C(C(=C1)N)Cl
reactant | BBr3 | 0.60 mol, 600 ml | B(Br)(Br)Br | BBr3
reactant | NaOH | 5.5N, 600 ml | [OH-].[Na+]
reactant | water | O | H2O
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 4-amino-5-chlorosalicylic acid | NC=1C=C(C(C(=O)O)=CC1Cl)O | C7H6ClNO3
